US05104866
To a solution of 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) (1.15 g) in 50% aqueous acetone (9.2 ml) was added sodium hydrogencarbonate (193 mg) and dry ice (4.4 g) at room temperature. The mixture was stirred in a sealed tube for 5 hours. Acetone was removed under reduced pressure. The residual solution was chromatographed on non-ionic adsorption resin "Diaion HP-20" (Trademark, maker: Mitsubishi Chemical Industries) eluting with water. The desired fractions were collected and lyophilized to give sodium 7-[2-allyloxyimino-2-(5-carboxylatoamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) (500 mg).

reactant | 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate | 1.15 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N | C20H19N7O5S2
reactant | sodium hydrogencarbonate | 193 mg | C(O)([O-])=O.[Na+]
reactant | dry ice | 4.4 g | C(=O)=O | CO2
solvent | acetone | 9.2 ml | CC(=O)C | C3H6O
product | sodium 7-[2-allyloxyimino-2-(5-carboxylatoamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate | 500 mg | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)NC(=O)[O-].[Na+] | InChI=1S/C21H19N7O7S2.Na/c1-2-8-35-25-12(15-23-20(37-26-15)24-21(33)34)16(29)22-13-17(30)28-14(19(31)32)11(10-36-18(13)28)9-27-6-4-3-5-7-27;/h2-7,13,18H,1,8-10H2,(H3-,22,23,24,26,29,31,32,33,34);/q;+1/p-1/t13?,18-;/m1./s1
